US08629430B2
32.7 g of benzo[b]naphtho[2,1-d]furan was dissolved in 300 mL of N,N-dimethylformamide. Then, 50 mL of a N,N-dimethylformamide solution of 28.0 g of N-bromosuccinimide was added, and the resulting reaction solution was stirred with heating at 60° C. for 5 hours. After cooling to room temperature, the reaction solution was poured in 2 L of water. Solids thus obtained were sequentially washed with methanol, water and methanol. The resulting crude product was purified by means of silica gel column chromatography, whereby 36.5 g (yield: 82%) of 5-bromobenzo[b]naphtho[2,1-d]furan was obtained.

reactant | benzo[b]naphtho[2,1-d]furan | 32.7 g | C1=CC=CC=2C=CC=3C4=C(OC3C12)C=CC=C4 | C16H10O
reactant | N-bromosuccinimide | 28.0 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | water | 2 L | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 5-bromobenzo[b]naphtho[2,1-d]furan | 36.5 g, yield: 82% | BrC1=CC=2C3=C(OC2C=2C=CC=CC12)C=CC=C3 | C16H9BrO
